US04380644
30 g of tert.-butyl (4S)-1-benzyl-3-[(2S)-3-benzoylthio-2-methylpropionyl]-2-oxo-imidazolidine-4-carboxylate and 120 ml of trifluoroacetic acid are treated in the same manner as described in Example 2-(3). 24.1 g of (4S)-1-benzyl-3-[(2S)-3-benzoylthio-2-methylpropionyl]-2-oxo-imidazolidine-4-carboxylic acid are obtained as colorless crystals. Yield: 90.9% The physico-chemical properties of this product are identical with those of the sample obtained in Example 8-(4).

reactant | tert.-butyl (4S)-1-benzyl-3-[(2S)-3-benzoylthio-2-methylpropionyl]-2-oxo-imidazolidine-4-carboxylate | 30 g | C(C1=CC=CC=C1)N1C(N([C@@H](C1)C(=O)OC(C)(C)C)C([C@@H](CSC(C1=CC=CC=C1)=O)C)=O)=O | C26H30N2O5S
solvent | trifluoroacetic acid | 120 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (4S)-1-benzyl-3-[(2S)-3-benzoylthio-2-methylpropionyl]-2-oxo-imidazolidine-4-carboxylic acid | 24.1 g, Yield: 90.9% | C(C1=CC=CC=C1)N1C(N([C@@H](C1)C(=O)O)C([C@@H](CSC(C1=CC=CC=C1)=O)C)=O)=O | C22H22N2O5S
